US05220042
520 Milligrams of 1-[2,5-dimethoxy-4-butyl-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(2-methoxymethyloxyethyl)phenyl]pentane was dissolved in 5 ml of tetrahydrofuran with 5 ml of isopropanol, to this solution was added 1 milliliter of tetrahydrofuran-isopropanol (1:1) solution of 20%-hydrogen chloride, and the whole mixture was stirred at room temperature for 12 hours. After concentrated the reaction mixture, the residue obtained was treated by an azeotrotic distillation with benzene, then dissolved in 8 ml of methanol, further a small amount of sodium hydrogen carbonate was added thereto, and oxygen gas was blown into the solution for 2 hours. This solution was concentrated, and 50 ml of dichloromethane was added to the residue and the solution was washed with water and with a saturated sodium chloride aqueous solution, and concentrated. Then this product was purified by means column chromatography (diameter 2 cm×length 10 cm, adsorbent: "Silica gel 60" manufacture by E. Merck A. G., developing solvent: 30% ethyl acetate-n-hexane) to obtain 231 mg of 1-(2,5-dimethoxy-6-butyl-1,4-benzoquinone-3-yl)-5-[2,5-dimethoxy-6-(2-hydroxyethyl)-1,4-benzoquinon- 3-yl]pentane. Amorphous powdery substance.

reactant | 1-[2,5-dimethoxy-4-butyl-3,6-bis(methoxymethoxy)phenyl]-5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)-4-(2-methoxymethyloxyethyl)phenyl]pentane | COC1=C(C(=C(C(=C1OCOC)CCCC)OC)OCOC)CCCCCC1=C(C(=C(C(=C1OCOC)OC)CCOCOC)OCOC)OC | C37H60O14
reactant | hydrogen chloride | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | oxygen | O=O | O2
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
solvent | methanol | 8 ml | CO | CH4O
solvent | benzene | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran isopropanol | 1 milliliter | O1CCCC1.C(C)(C)O
product | 1-(2,5-dimethoxy-6-butyl-1,4-benzoquinone-3-yl)-5-[2,5-dimethoxy-6-(2-hydroxyethyl)-1,4-benzoquinon- 3-yl]pentane | 231 mg | COC=1C(C(=C(C(C1CCCCCC1=C(C(C(=C(C1=O)OC)CCO)=O)OC)=O)OC)CCCC)=O | C27H36O9
